US07842688B2
a) tert-Butyl 3-[4-ethyl-3-(3-methoxypropoxy)benzyloxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
The solution of 0.090 g of tert-butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[3-(3-methoxypropoxy)-4-vinylbenzyloxy]piperidine-1-carboxylate in 0.090 ml of triethylamine and 5.0 ml of methanol is hydrogenated in the presence of 10 mg of 10% Pd/C over 16 hours. The reaction mixture is clarified by filtration and the filtrate is concentrated by evaporation. The title compound is obtained as an orange oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.23 (1:2 EtOAc-heptane); Rt=30.02 (II).

reactant | tert-butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[3-(3-methoxypropoxy)-4-vinylbenzyloxy]piperidine-1-carboxylate | 0.090 g | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2=CC(=C(C=C2)C=C)OCCCOC)C=CC=C1 | C40H53NO8
solvent | triethylamine | 0.090 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 5.0 ml | CO | CH4O
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | tert-Butyl 3-[4-ethyl-3-(3-methoxypropoxy)benzyloxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | C(C)C1=C(C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=C1)OCCCOC | C40H55NO8
